US04187216
6.4 g (0.02 mol) of N-benzyloxycarbonyl-L-alanyl-L-proline were dissolved in 75 ml of dry tetrahydrofuran and the solution was cooled to -10° C. 2.54 ml (0.02 mol) of N-ethylmorpholine and 2.62 ml (0.02 mol) of isobutyl chloroformate were added and the solution was stirred at -10° C. for 20 minutes. A solution of 2.25 g (0.02 mol) of cycloheptylamine in 25 ml of dry tetrahydrofuran was then added. The mixture was stirred at 0° C. for 1 hour and then left to stand at room temperature for 16 hours. The mixture was then evaporated and the residue extracted twice with 50 ml of ethyl acetate each time. The combined ethyl acetate extracts were washed successively with 1-N hydrochloric acid, water, 5% sodium bicarbonate solution and water and then dried over magnesium sulphate. Evaporation yielded an oil which solidified upon trituration with petroleum ether. The solid was recrystallised from ethyl acetate/petroleum ether to yield 5.6 g (67.5%) of N-benzyloxycarbonyl-L-alanyl-L-proline cycloheptylamide of melting point 110°-113° C.; [α]D20 =-92.4° (c=1.05% in methanol).

reactant | N-benzyloxycarbonyl-L-alanyl-L-proline | 0.02 mol, 6.4 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C16H20N2O5
reactant | N-ethylmorpholine | 0.02 mol, 2.54 ml | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 0.02 mol, 2.62 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | cycloheptylamine | 0.02 mol, 2.25 g | C1(CCCCCC1)N | C7H15N
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-benzyloxycarbonyl-L-alanyl-L-proline cycloheptylamide | 5.6 g, 67.5% | C1(CCCCCC1)NC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)=O | C23H33N3O4
